US08871948B2
To a solution containing ethyl 3-(5-nitro-2-phenyl-1H-indol-1-yl)propanoate (prepared as described in example 1 g) (2.1 g; 6.2 mmol) in THF (20 ml) sodium borohydride (0.98 g, 24.8 mmol) and EtOH absolute (25 ml) were added; the reaction mixture was left under stirring at room temperature for 18 hours. Then water (5 ml) and HCl 2N were added to pH 6. The solution was transferred into a separating funnel, and extracted with ethyl acetate (2×50 ml). The organic phases were combined, and dried over Na2SO4. The solvent was removed by evaporation under reduced pressure and the residue was purified by flash chromatography on silica gel (n-hexane/EtOAc, n-hexane 100→70%) to give 3-(5-nitro-2-phenyl-1H-indol-1-yl)propan-1-ol (1.5 g), which was used without any further purification.

reactant | ethyl 3-(5-nitro-2-phenyl-1H-indol-1-yl)propanoate | 6.2 mmol, 1 g | [N+](=O)([O-])C=1C=C2C=C(N(C2=CC1)CCC(=O)OCC)C1=CC=CC=C1 | C19H18N2O4
reactant | THF | 24.8 mmol, 20 ml, 0.98 g | C1CCOC1 | C4H8O
reactant | water | 5 ml | O | H2O
reactant | HCl | 2N | Cl | ClH
solvent | EtOH | 25 ml | CCO | C2H6O
product | 3-(5-nitro-2-phenyl-1H-indol-1-yl)propan-1-ol | 1.5 g | [N+](=O)([O-])C=1C=C2C=C(N(C2=CC1)CCCO)C1=CC=CC=C1 | C17H16N2O3
